US04501910
Isoeugenol is synthesized from vanillin in the presence of potassium carbonate and ethyl triphenyl phosphonium bromide in commercial methanol.

reactant | vanillin | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | CO | CH4O
catalyst | ethyl triphenyl phosphonium bromide | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | Isoeugenol | C=1(C(O)=CC=C(C=CC)C1)OC | C10H12O2
